* ==========================================================================
* @part: LM386
* @family: opamps
* @source: Bordodynov
* @url: https://github.com/kicad-spice-library/KiCad-Spice-Library (Bordodynov LTspice library)
* @origin-file: KiCad-Spice-Library/Models/uncategorized/Bordodynovs Electronics Lib/sub/Lm386.sub
* @retrieved: 2026-09-24
* @licence: no licence or copyright text in the vendor file (terms unknown)
* @added-by: garv.singh
* @pins: Lm386: Gan_1 -In_2 +In_3 Gnd_4 Out_5 V+_6 Desa_7 Gan_8
* @notes: 0.5 W audio amplifier; pins GAIN1 IN- IN+ GND OUT VS BYPASS GAIN8 (package order); TI publishes no model
* Definitions below are copied verbatim from the origin file.
* ==========================================================================

.subckt Lm386 Gan_1 -In_2 +In_3 Gnd_4 Out_5 V+_6 Desa_7 Gan_8
Q1 N007 N007 Gnd_4 0 NP
Q2 N002 N007 Gnd_4 0 NP
Q6 Gnd_4 -In_2 N004 0 PN
Q7 N002 N005 Gan_1 0 PN
Q8 Gnd_4 +In_3 N005 0 PN
Q10 N007 N004 N003 0 PN
I1 V+_6 N001 4m
R1 +In_3 Gnd_4 50K
R2 Out_5 Gan_1 15K
R3 Gan_1 Gan_8 1.35K
R4 Gan_8 N003 150
R5 Desa_7 N003 15K
R6 V+_6 Desa_7 15K
R7 Gnd_4 -In_2 50K
D2 N001 N006 D
Q3 N006 N002 Gnd_4 0 QDrv
Q9 N008 N006 Out_5 0 PN
Q5 Out_5 N008 Gnd_4 0 NP
Q4 V+_6 N001 Out_5 0 NP
.model NP NPN(BF=125 Cje=.5p Cjc=.5p Rb=500)
.model PN LPNP(BF=25 Cje=.3p Cjc=1.5p Rb=250)
.model D D
.model QDrv NPN(IS=1E-14 VAF=100 BF=200 IKF=0.3 XTB=1.5 BR=3
+ CJC=8E-12 CJE=25E-12 TR=100E-9 TF=400E-12 ITF=1 VTF=2 XTF=3 RB=10 RC=3 RE=1
.ends
